simulator lang=spectre
global 0

ahdl_include "../submission/source_single_shot.va"

Vin (vin 0) vsource type=pwl wave=[0 0 4n 0 5n 0.9 8n 0.9 9n 0 24n 0 25n 0.9 28n 0.9 29n 0 45n 0]
XDUT (vin vout) source_single_shot

tran tran stop=45n maxstep=50p
save vin vout
